US04822528
4,5-epoxy-6-methylenandrostane-3,17 dione (II, R1 =R2 =R3 =R4 =H, (x)=single bond)
To a solution of 6-methylenandrost-4-ene-3,17-dione (5 g, 16.7 mmole) in methanol (200 ml) cooled at 0° C. is added a cold 36% hydrogen peroxide solution (17 ml) and a cold 2% sodium hydroxide aqueous solution. The resulting reaction mixture is stirred at 0°-5° C. during 24 hrs, then it is poured into iced water (1400 ml) with vigorous stirring. The resulting precipitate is filtered, washed with water and dried in vacuo. There are obtained 4.2 g (80% yield) of the title compound,

reactant | 6-methylenandrost-4-ene-3,17-dione | 16.7 mmole, 5 g | C=C1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(C=C12)=O)C)=O | C20H26O2
reactant | hydrogen peroxide | 17 ml | OO | H2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 1400 ml | O | H2O
solvent | methanol | 200 ml | CO | CH4O
product | 4,5-epoxy-6-methylenandrostane-3,17 dione | 4.2 g, 80% yield | O1C2C13C(C[C@H]1[C@@H]4CCC([C@@]4(C)CC[C@@H]1[C@]3(CCC2=O)C)=O)=C | C20H26O3
